US07714126B2
With a procedure similar to example 50 above, 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide was prepared from 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester and N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine. LCMS calcd for C21H24BrN5O3 (m/e) 474, obsd 475 (M+H).

reactant | 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Br)CCC | C17H15BrN2O5
reactant | N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine | COCCN(C1=NC=C(C=N1)N)C | C8H14N4O
product | 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide | COCCN(C1=NC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Br)CCC)C | C21H24BrN5O3
